US08871753B2
Step C: N-{3-[(2,5-Dichloropyrimidin-4-yl)amino]phenyl}-2-(3-nitrophenyl)acetamide
To a solution of N-(3-aminophenyl)-2-(3-nitrophenyl)acetamide-hydrogen chloride (0.11 g, 0.35 mmol) and 2,4,5-trichloropyrimidine (0.065 g, 0.35 mmol) in DMF (1 mL) was added potassium carbonate (0.20 g, 1.4 mmol). The resulting mixture was stirred overnight at room temperature. Additional triethylamine (0.099 mL, 0.71 mmol) was then added an stirred overnight again. The reaction was quenched with sat'd NH4Cl and water. EtOAc was added and the layers separated. The aqueous was extracted with EtOAc. The combined organics were washed with water and brine then dried (MgSO4), filtered, and concentrated. The resulted mixture was purified by column chromatography to give the desired product (0.080 g, 53%). LCMS for C18H13Cl2N5O3 (M+H)+: m/z=418.0, 419.9. 1H NMR (400 MHz, DMSO-d6): δ 10.33 (s, 1H), 9.53 (s, 1H), 8.35 (s, 1H), 8.23 (t, J=2.0 Hz, 1H), 8.12 (ddd, J=8.2, 2.4, 1.0 Hz, 1H), 7.82 (t, J=2.0 Hz, 1H), 7.78 (dt, J=7.8, 1.4 Hz, 1H), 7.62 (t, J=7.9 Hz, 1H), 7.36 (dt, J=8.0, 1.7 Hz, 1H), 7.30 (t, J=7.8 Hz, 1H), 7.25 (dt, J=8.0, 1.7 Hz, 1H).

reactant | N-(3-aminophenyl)-2-(3-nitrophenyl)acetamide hydrogen chloride | 0.35 mmol, 0.11 g | NC=1C=C(C=CC1)NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O.Cl
reactant | 2,4,5-trichloropyrimidine | 0.35 mmol, 0.065 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 1.4 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 0.71 mmol, 0.099 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-{3-[(2,5-Dichloropyrimidin-4-yl)amino]phenyl}-2-(3-nitrophenyl)acetamide | 0.080 g, 53% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O)Cl | C18H13Cl2N5O3
